US09445594B2
Preparation of 1-(2-isopropylphenyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea (F76)
To 2-isopropylaniline (0.50 g, 3.7 mmol) and sodium bicarbonate (0.93 g, 11 mmol) in dichloromethane and water (36 mL, 2:1) was added triphosgene (0.55 g, 1.9 mmol) at 0° C. The reaction was stirred until complete conversion to the isocyanate, as observed by thin layer chromatography. The reaction was then diluted with dichloromethane (100 mL), and the organic layer was separated from the water layer and concentrated. The residue obtained was dissolved in acetonitrile (15 mL) and 3-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (1.2 g, 3.4 mmol) and cesium carbonate (1.1 g, 3.4 mmol) were added. The reaction was stirred at room temperature for 16 hours. The reaction was quenched with water (50 mL) and extracted with dichloromethane (3×100 mL). The organic layers were dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography using high pressure liquid chromatography provided the title compound as an off-white solid (0.26 g, 16%).

reactant | 2-isopropylaniline | 3.7 mmol, 0.50 g | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | sodium bicarbonate | 11 mmol, 0.93 g | C([O-])(O)=O.[Na+]
reactant | triphosgene | 1.9 mmol, 0.55 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | isocyanate | [N-]=C=O
reactant | 3-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | 3.4 mmol, 1.2 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN)(F)F | C18H17F3N4O
reactant | cesium carbonate | 3.4 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 36 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 1-(2-isopropylphenyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea | 0.26 g, 16% | C(C)(C)C1=C(C=CC=C1)NC(=O)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C28H28F3N5O2
